US04340740
241 mg of alpha-(methylthio)-alpha-(m-benzoylphenyl)propionitrile was dissolved in 1 ml of methanol, and 0.60 ml of a 2.3 M methanol solution of sodium methanethiolate was added dropwise. The mixture was stirred at room temperature for 1.5 hours. An aqueous solution of ammonium chloride (2 g/10 ml) was added, and the mixture was extracted with 10 ml of ether three times. The extract was washed with 20 ml of water three times, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; methylene chloride) to afford 167 mg (yield 79%) of alpha-(m-benzoylphenyl)propionitrile.

reactant | alpha-(methylthio)-alpha-(m-benzoylphenyl)propionitrile | 241 mg | CSC(C#N)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)=O | C17H15NOS
reactant | sodium methanethiolate | C[S-].[Na+]
reactant | ammonium chloride | 10 ml, 2 g | [Cl-].[NH4+]
solvent | methanol | 1 ml | CO | CH4O
solvent | methanol | 2.3 M | CO | CH4O
product | alpha-(m-benzoylphenyl)propionitrile | 167 mg, yield 79% | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)C(C#N)C | C16H13NO
